US06294573B1
Reaction of 4-fluoro-nitrobenzene with 4-trifluoromethoxyphenol in the presence of KOtBu as described in Example 74A, followed by reduction of the nitro group (hydrogen, 10% Pd/C) gave 4-(4-trifluoromethoxyphenoxy)-aniline. The aniline (4.58 g, 17 mmol) was dissolved in conc. HCl (3.1 mL) and ice (4.5 g) cooled to −5 C., then treated with a solution of NaNO2 (1.17 g, 17 mmol) in water (7mL) which was added dropwise. The cold soltion was added to an aqueous (7 mL) solution of potassium xanthate (5.46 g, 34 mmol) and the resulting mixture was heated at 70 C for 2 h, then allowed to cool to rt and partitioned between EtOAc and water. The organic extract was dried (MgSO4), filt ered and concentrated to give the title compound

reactant | 4-fluoro-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-trifluoromethoxyphenol | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-trifluoromethoxyphenoxy)-aniline | FC(OC1=CC=C(OC2=CC=C(N)C=C2)C=C1)(F)F | C13H10F3NO2
